US04513005
Methyl formylbutyrate (13 g) and 1-triphenylphosphoranylidene-2-propanone (31.4 g) were refluxed together in toluene (200 ml) for 30 minutes. The toluene was then evaporated off and ether (200 ml) added to the residue to give a suspension which was stirred at room temperature for 5 minutes. The suspended triphenylphosphine oxide was filtered off and washed with a further 100 ml of ether. The combined ether solutions were evaporated to dryness to give a yellow oil which was distilled at 0.1 mm Hg using a Kugelrohr apparatus (air bath temperature 140° C.) to yield 7-oxo-5-octenoic acid methyl ester as a colourless oil.

reactant | Methyl formylbutyrate | 13 g | C(=O)C(C(=O)OC)CC | C6H10O3
reactant | 1-triphenylphosphoranylidene-2-propanone | 31.4 g | C1(=CC=CC=C1)P(=CC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 7-oxo-5-octenoic acid methyl ester | COC(CCCC=CC(C)=O)=O | C9H14O3
